US04732900
4-(5-Chloropyridin-2-yl)-3-methyl-5-(N-tert.-butylaminocarbonyl) oxy-1,2,4-triazole
19.6 g (0.09 mol) of 4-(5-chloropyridin-2-yl)-5-hydroxy-3-methyl-1,2,4-triazole are suspended in 600 ml of absolute tetrahydrofuran. The mixture is heated to boiling and 20 g (0.2 mol) of tert-butylisocyanate are added, the mixture is heated for 10 minutes and 4 ml of a 5% methanolic sodium methoxide solution are added to the reaction mixture. It is then stirred for 24 hours under reflux conditions, then the suspension is concentrated and the residue is dissolved in methylene chloride and the insoluble components are removed by suction filtering. The organic phase is washed successively with 2 N hydrochloric acid, with sodium hydrogen carbonate solution and with water, dried with magnesium sulphate and evaporated in vacuo. After the addition of ether, 25 g (87% of theory) of the title compound were isolated in the form of crystals, m.p. 132°-134° C.

reactant | 4-(5-chloropyridin-2-yl)-5-hydroxy-3-methyl-1,2,4-triazole | 0.09 mol, 19.6 g | ClC=1C=CC(=NC1)N1C(=NN=C1O)C | C8H7ClN4O
reactant | tert-butylisocyanate | 0.2 mol, 20 g | C(C)(C)(C)N=C=O | C5H9NO
reactant | sodium methoxide | C[O-].[Na+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 4-(5-Chloropyridin-2-yl)-3-methyl-5-(N-tert.-butylaminocarbonyl) oxy-1,2,4-triazole | ClC=1C=CC(=NC1)N1C(=NN=C1OC(=O)NC(C)(C)C)C | C13H16ClN5O2
